US04691040
A solution of 664 g of sodium hydroxide in 996 ml of water is added to a solution, stirred at room temperature, of 87.5 g of crude 4,5,10,11-tetrahydro-1H-dibenzo[a,d]cycloheptene-5-ethanol, 103.7 g of p-toluenesulfochloride and 7.2 g of benzyltriethylammonium chloride in 1440 ml of methylene chloride and the mixture is stirred at room temperature overnight. The mixture is treated with 2 l of ice-water and extracted with 3 l of methylene chloride. The organic extracts are washed neutral with water. The aqueous extracts remaining are subsequently back-extracted three times with 2 l of methylene chloride each time. The organic extracts are combined, dried over magnesium sulfate and evaporated. After four-fold recrystallization of the solid residue from toluene, there is obtained pure 2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl-p-toluenesulfonate of melting point 150°-151°.

reactant | sodium hydroxide | 664 g | [OH-].[Na+]
reactant | 4,5,10,11-tetrahydro-1H-dibenzo[a,d]cycloheptene-5-ethanol | 87.5 g | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H20O
reactant | p-toluenesulfochloride | 103.7 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | water | 996 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 7.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 1440 ml | C(Cl)Cl | CH2Cl2
product | 2-(4,5,10,11-tetrahydro-1H-dibenzo[a,d]cyclohepten-5-yl)ethyl-p-toluenesulfonate | C1C=CCC=2C(C3=C(CCC21)C=CC=C3)CCOS(=O)(=O)C3=CC=C(C=C3)C | C24H26O3S
